US09278931B2
B) N-[4-(trans-2-aminocyclopropyl)phenyl]-3-[(phenylcarbonyl)amino]benzamide hydrochloride
tert-Butyl(trans-2-{4-[({3-[(phenylcarbonyl)amino]phenyl}carbonyl)amino]phenyl}-cyclopropyl)carbamate (188 mg) was dissolved in 4N hydrochloric acid/ethyl acetate solution (2 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure to give the title compound (107 mg).

reactant | tert-Butyl(trans-2-{4-[({3-[(phenylcarbonyl)amino]phenyl}carbonyl)amino]phenyl}-cyclopropyl)carbamate | 188 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C1=CC(=CC=C1)NC(=O)C1=CC=CC=C1)=O | C28H29N3O4
reactant | hydrochloric acid ethyl acetate | 4N, 2 mL | Cl.C(C)(=O)OCC
product | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-[(phenylcarbonyl)amino]benzamide hydrochloride | 107 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)NC(=O)C1=CC=CC=C1)=O | InChI=1S/C23H21N3O2.ClH/c24-21-14-20(21)15-9-11-18(12-10-15)25-23(28)17-7-4-8-19(13-17)26-22(27)16-5-2-1-3-6-16;/h1-13,20-21H,14,24H2,(H,25,28)(H,26,27);1H/t20-,21+;/m0./s1
